US04379819
4-Methylsulfonyl-nitrobenzene
The following are obtained analogously: 4-hexylsulfonyl-nitrobenzene, melting point 44°-46° C.; 2-methylsulfonyl-nibrobenzene, melting point 104°-106° C., boiling point 215°-218° C. (0.25 mm Hg); 2,4-bis-isobutylsulfonylnitrobenzene, melting point 165°-167° C.

reactant | 4-hexylsulfonyl-nitrobenzene | C(CCCCC)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17NO4S
reactant | 2,4-bis-isobutylsulfonylnitrobenzene | C(C(C)C)S(=O)(=O)C1=C(C=CC(=C1)S(=O)(=O)CC(C)C)[N+](=O)[O-] | C14H21NO6S2
product | 4-Methylsulfonyl-nitrobenzene | CS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO4S
